US04418077
A mixture of 1,3-difluoro-2-tert.butoxycarbonylamino-4-phthalimidobutane (0.1 g, 0.27 mmol) obtained as in Step C above and concentrated hydrochloric acid is heated at 100° C. for 48 hours. The solvent is evaporated in vacuo and the residue is taken up in water. Insoluble phthalic acid is filtered off and the filtrate concentrated to yield 1,3-difluoro-2,4-diaminobutane, dihydrochloride (0.03 g).

reactant | 1,3-difluoro-2-tert.butoxycarbonylamino-4-phthalimidobutane | 0.27 mmol, 0.1 g | FCC(C(CN1C(C=2C(C1=O)=CC=CC2)=O)F)NC(=O)OC(C)(C)C | C17H20F2N2O4
reactant | hydrochloric acid | Cl | ClH
product | 1,3-difluoro-2,4-diaminobutane, dihydrochloride | 0.03 g | Cl.Cl.FCC(C(CN)F)N | InChI=1S/C4H10F2N2.2ClH/c5-1-4(8)3(6)2-7;;/h3-4H,1-2,7-8H2;2*1H
